Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Nausea
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization (___)

 
History of Present Illness:
___ woman with history notable for dyslipidemia, GERD,
and hypothyroidism presenting as transfer from ___ for STEMI.

She reports ___ days of vague feeling of unwellness though never
having any chest pain. Was planning to attend a concert earlier
tonight but then stayed home because she was feeling worse,
though is not able to specifically characterize her symptoms. 
She
developed mild nausea but did not vomit, and at no point did she
develop any chest pain.

After discussing her symptoms with her neighbor she decided to
report to the ___ for further management. Initial EKGs
showed subtle ST changes, though subsequent ones with more
concerning findings of STEMI. She was transferred to ___ for
emergent catheterization. 

Her cath was notable for single vessel disease with 100%
occlusion of the RCA. A single DES was placed with procedure
notable for transient bradycardia and hypotension while crossing
the lesion. She received a single dose of atropine for this and
issue did not recur thereafter.

Upon arrival to the floor, ___ reports overall feeling
improved. Remains chest pain free. Still with slight nausea but
her feeling of unwellness has subsided. She otherwise denies any
recent fever, chills, dyspnea, abdominal pain, vomiting, or
diarrhea. 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- age
- dyslipidemia

2. CARDIAC HISTORY  
- none

3. OTHER PAST MEDICAL HISTORY 
- hypothyroidism
- GERD
 
Social History:
___
Family History:
Mother with history of CHF. Father with history of CVA.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VITALS: Temp: 97.7 PO BP: 121/70 L Lying HR: 90 RR: 16 O2 sat:
99% O2 delivery: RA 
GENERAL: Well appearing woman in no acute distress. Comfortable. 

NEURO: AAOx3. CNII-XII grossly intact. Moving all four
extremities with purpose. 
HEENT: NCAT. EOMI. MMM.
CARDIAC: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs,
or gallops. No carotid bruits.
PULMONARY: Clear to auscultation bilaterally. Breathing
comfortably on room air.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused, non-edematous. 
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM
======================
GENERAL: WDWN adult woman sitting in bed reading 
HEENT: NCAT, sclerae anicteric, MMM
NECK: Supple, JVP not elevated
CARDIAC: RRR,normal S1/S2, no m/r/g
PULMONARY: CTAB, no increased work of breathing
ABDOMEN: Soft, non-tender, non-distended, normoactive BS
EXTREMITIES: Warm, DP pulses 2+ bilaterally, no edema 
NEURO: A&Ox3, CN grossly intact, spontaneously moving all
extremities
 
Pertinent Results:
ADMISSION LABS
==============

___ 02:15AM BLOOD WBC-15.6* RBC-5.20 Hgb-14.7 Hct-45.3* 
MCV-87 MCH-28.3 MCHC-32.5 RDW-12.3 RDWSD-39.3 Plt ___
___ 02:15AM BLOOD Neuts-83.0* Lymphs-9.5* Monos-6.1 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-12.94* AbsLymp-1.49 
AbsMono-0.95* AbsEos-0.05 AbsBaso-0.07
___ 02:15AM BLOOD ___ PTT-142.4* ___
___ 02:15AM BLOOD Plt ___
___ 02:15AM BLOOD Glucose-135* UreaN-17 Creat-0.9 Na-142 
K-4.8 Cl-105 HCO3-22 AnGap-15
___ 02:15AM BLOOD cTropnT-0.20*
___ 07:18AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.0 Cholest-171
___ 07:18AM BLOOD Triglyc-54 HDL-69 CHOL/HD-2.5 LDLcalc-91
___ 07:18AM BLOOD TSH-1.4

PERTINENT LABS
==============
___ 02:15AM BLOOD cTropnT-0.20*
___ 07:18AM BLOOD CK-MB-237* cTropnT-6.48*
___ 02:50PM BLOOD CK-MB-186* cTropnT-8.56*
___ 06:22AM BLOOD %HbA1c-5.4 eAG-108
___ 07:18AM BLOOD Triglyc-54 HDL-69 CHOL/HD-2.5 LDLcalc-91
___ 07:18AM BLOOD TSH-1.4

DISCHARGE LABS
===============
___ 06:20AM BLOOD WBC-9.1 RBC-3.69* Hgb-10.4* Hct-32.7* 
MCV-89 MCH-28.2 MCHC-31.8* RDW-12.7 RDWSD-40.7 Plt ___
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-93 UreaN-15 Creat-0.8 Na-145 
K-4.3 Cl-111* HCO3-24 AnGap-10
___ 06:20AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.0

IMAGING/PROCEDURES
==================
CHEST X RAY (___)
IMPRESSION: 
 
No prior chest radiographs available.
 
Lungs fully expanded and clear.  Heart mildly enlarged.  Normal 
pulmonary
mediastinal vasculature.  No edema.  No appreciable pleural 
effusion.

CARDIAC CATHETERIZATION (___)
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel and is free of significant 
stenosis.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel and is free of significant stenosis.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 100% stenosis in the mid 
segment.
Interventional Details
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad hoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure. A 6 ___ JR4 guide provided adequate support. 
Crossed with a Prowater wire into the distal PDA. Predilated 
with a 2.5 mm balloon and then 3.0 balloon after failed stent 
delivery. 6 ___ Guidezilla required for delivery of 2.75 x 28 
mm Promus that was deployed at 14 ATM. Postdilated with a 3.0 x 
12
mm NC balloon at ___ ATM. Final angiography revealed normal 
flow, no dissection and 0% residual stenosis.
Complications: There were no clinically significant 
complications.
Findings
_x0095_ Single vessel coronary artery disease.
_x0095_ Successful PCI with drug-eluting stent of the RCA coronary 
artery.

___ (___)
CONCLUSION:
The left atrial volume index is moderately increased. The right 
atrium is mildly enlarged. The estimated right atrial pressure 
is >15mmHg. There is normal left ventricular wall thickness with 
a normal cavity size. Overall left ventricular systolic function 
is moderately-to-severely depressed secondary to hypokinesis of 
the inferior
septum, and akinesis of the inferior free wall and posterior 
wall. The visually estimated left ventricular ejection fraction 
is 30%. There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) are mildly
thickened. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is an eccentric, 
inferolateral directed jet of moderate to severe [3+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no
pericardial effusion.
 
Brief Hospital Course:
ASSESSMENT AND PLAN

___ woman with history notable for dyslipidemia, GERD,
and hypothyroidism admitted for STEMI s/p DES to RCA, now
resolved.

# CORONARIES: 100% occlusion RCA s/p DES
# PUMP: unknown on admission
# RHYTHM: sinus

# STEMI
___ presented with two days "feeling unwell", one evening 
nausea, EKG with ST-elevations in inferior leads, initial 
troponin 0.2. Treated with ASA, ticagrelor, heparin gtt, 
atorvastatin 80.
Killip Class I on admission. Cath revealed complete occlusion of 
the RCA, s/p DES x1 with resolution of symptoms. NSVT x2 
overnight after cath, asymptomatic, remained hemodynamically 
stable. Troponin 0.20->6.48->8.56, CK-MB 237->186. 
Post-procedure ___ felt well without CP or anginal 
equivalent symptoms for duration of admission. Started on 
metoprolol tartrate, transitioned to succinate prior to 
discharge. Monitored for ___ post-STEMI. ___ notable for EF 30% 
with akinetic inferior and infero-lateral wall, ___ MR. ___ 
remained without evidence of clinical heart failure or 
symptomatic MR. ___ inhibitor given reduced EF. TSH and 
A1C WNL, lipids with LDL 91. On ___ had PVCs with short run of 
bigeminy prior to AM dose of metoprolol, subsequently resolved, 
no other events on telemetry.
Treatments on Discharge:
- Aspirin 81 mg PO/NG DAILY
- Ticagrelor 90 mg PO/NG BID
- Atorvastatin 80 mg PO/NG QPM
- Metoprolol succinate 12.5MG daily
- Lisinopril 2.5MG daily
Transitional:
- Refer to cardiac rehab
- Repeat ___ in 40 days, consider evaluation for ICD if EF
remaining <35%
- Uptitrate ___, Beta Blocker as tolerated, consider adding
spironolactone given EF
- Re-evaluate MR on repeat ___

# Anemia
Hgb drop from 14.7 on admission to 10.9 post-procedurally, 
likely intra-procedural blood loss. No evidence of RP bleed. 
Repeat hemoglobin stable at 11.3. No overt bleeding prior to 
discharge.

CHRONIC / STABLE ISSUES
=================================
# HYPOTHYROIDISM
Continued levothyroxine Sodium 75 mcg PO/NG DAILY.

# GERD
Continued omeprazole 40 mg PO DAILY.

TRANSITIONAL ISSUES
- Refer to cardiac rehab
- Repeat ___ in 40 days, consider evaluation for ICD if EF
remaining <35%
- Uptitrate ___, Beta Blocker as tolerating, consider adding
spironolactone given EF
- Re-evaluate MR on repeat ___ Medications:
Aspirin 81MG daily
Ticagrelor 90MG twice daily
Atorvastatin 80 mg PO/NG QPM
Metoprolol succinate 12.5MG daily
Lisinopril 2.5MG daily
Changed Medications: None
Stopped/Held Medications: None
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*1 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth At bedtime Disp #*30 
Tablet Refills:*1 
3.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*1 
4.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*1 
5.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth Twice daily 
Disp #*30 Tablet Refills:*1 
6.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  Omeprazole 40 mg PO DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ST-Elevation Myocardial Infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because of a heart attack 
(ST-elevation myocardial infarction).

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You underwent a procedure (cardiac catheterization) that 
revealed a blocked blood vessel. The blood vessel was opened and 
a stent was placed.
- You had an ultrasound of your heart, which revealed weakening 
of the heart muscle (heart failure with reduced ejection 
fraction) after your recent heart attack.
- You were started on medications for your heart attack and to 
help your heart heal appropriately.

WHAT SHOULD I DO WHEN I GO HOME?
- If you develop chest pain, shortness of breath, nausea, 
palpitations, or feel similar to how you felt prior to your 
heart attack, you should go to the emergency department or call 
___.
- You should weigh yourself everyday. If you gain more than 3 
lbs you should call your regular doctor.
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___